US07420001B2
3-Methyl-4-phenyl-benzofuran-2-carboxylic acid tert-butyl ester was dissolved in 2 mL of TFA/dichloromethane (1:1). The solution was stirred at room temperature for 3 h. The solvents were removed under vacuum and the residue was triturated with ether. Filtration gave 66 mg of 3-methyl-4-phenyl-benzofuran-2-carboxylic acid as white solid.

reactant | 3-Methyl-4-phenyl-benzofuran-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C2=CC=CC=C2 | C20H20O3
solvent | TFA dichloromethane | 2 mL | C(=O)(C(F)(F)F)O.ClCCl
product | 3-methyl-4-phenyl-benzofuran-2-carboxylic acid | 66 mg | CC1=C(OC2=C1C(=CC=C2)C2=CC=CC=C2)C(=O)O | C16H12O3
